US05360886
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, are charge 5 gms (0.0164 mole) of tri-o-tolylphosphine and 23 gms of toluene. The slurry is heated to 27° C. then 3.08 gms (0.0197 mole) of ethyl iodide is added. This reaction mass is heated to 70° C. and maintained for 17 hours, then heated to 100° C. and maintained for 9 hours, then cooled to 70° C. and maintained for 15 hours, then cooled to 26° C. This mixture is filtered and washed with 6 gms of toluene. After vacuum drying, 1.6 gms of ethyltri(o-tolyl)phosphonium iodide is obtained which has a melting point of 247° C. to 250° C.

reactant | tri-o-tolylphosphine | 0.0164 mole, 5 gms | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | ethyl iodide | 0.0197 mole, 3.08 gms | C(C)I | C2H5I
solvent | toluene | 23 gms | C1(=CC=CC=C1)C | C7H8
product | ethyltri(o-tolyl)phosphonium iodide | 1.6 gms | [I-].C(C)[P+](C1=C(C=CC=C1)C)(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | InChI=1S/C23H26P.HI/c1-5-24(21-15-9-6-12-18(21)2,22-16-10-7-13-19(22)3)23-17-11-8-14-20(23)4;/h6-17H,5H2,1-4H3;1H/q+1;/p-1
